US07157488B2
(3-[1,3]Dioxolan-2-ylphenyl)phenylmethanone
Combine (3-[1,3]dioxolan-2-ylphenyl)-phenyl-methanol (5.0 g, 18.5 mmol) and 18-crown-6 (160 mg, 0.6 mmol) in dichloromethane. Add potassium permanganate (8.8 g, 55.5 mmol). Heat to about 40° C. After 4 hours, cool to room temperature add water and sodium hydrogensulfite (6.0 g). Basify with a solution of 1N sodium hydroxide (about 60 ml) and extract with dichloromethane. Combine the organic layers and wash sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with EtOAc to give the title compound.

reactant | (3-[1,3]dioxolan-2-ylphenyl)-phenyl-methanol | 18.5 mmol, 5.0 g | O1C(OCC1)C=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C16H16O3
reactant | 18-crown-6 | 0.6 mmol, 160 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium permanganate | 55.5 mmol, 8.8 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydrogensulfite | 6.0 g | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3-[1,3]Dioxolan-2-ylphenyl)phenylmethanone | O1C(OCC1)C=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C16H14O3
